********************************************************************************************************
*
* Nexperia 2N7002AK-Q
* Polarity N - Channel
* Ratings 60V/2200.0mOhm/0A
* Revision N#: 1.0
* Created on 2023-12-11 14:34:57
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2023
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT 2N7002AK-Q D G S

* Package impedance
LD D 5 400.0p
RLD2 D 5 1.005
RLD1 5 4 2.300m
LG G 1 589.8p
RLG G 1 1.482
LS S 8 663.9p
RLS2 S 8 1.669
RLS1 8 7 4.497m

* Drain,gate and source resistances
RD 3 4 2.009 TC= 7.571m,1.000n
RG 1 2 41.00
RS 6 7 1.000u

* Body Diode
RBD 9 4 285.9m TC= 4.000m,23.00u
DBD 7 9 D_DBD
RDS 7 4 263.5G TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 2000MEG
CGS 2 6 6p

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 3 2 VALUE {V(13,0)*I(V11)}
E11 12 0 3 2 1
E12 13 0 TABLE {V(12)}
+ (0.1,3.93)
+ (0.2,3.374)
+ (0.5,2.583)
+ (1.0,2.242)
+ (2.0,1.938)
+ (3.0,1.779)
+ (4.0,1.682)
+ (5.0,1.614)
+ (6.0,1.561)
+ (8.0,1.48)
+ (10.0,1.419)
+ (12.0,1.368)
+ (15.0,1.304)
+ (20.0,1.22)
+ (24.0,1.167)
+ (30.0,1.101)
+ (40.0,1.019)
+ (48.0,0.9708)
+ (60.0,0.9201)

.MODEL MINT NMOS Vto= 1.796 Kp= 663.5m Nfs= 469.8G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 1.198K

.MODEL D_DBD D Bv= 68 Ibv= 250.0u Rs= 1.000u Is= 3.399f
+ N= 1.000 M= 264.7m VJ= 40.00m Fc= 500.0m Cjo= 5.23p Tt= 18.50n

.ENDS 2N7002AK-Q

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************